Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Rib fractures 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ M transfer from ___ s/p mechanical fall. States
that was walking down stairs, missed last step, fell onto hands
and then right side. Presented to ___, underwent CT
Torso that was significant for R ___ nondisplaced rib fx,
xfer to ___. Pt states that he is in minimal pain, only
feels occasional R sided rib pain with movement. Denies any
shortness of breath. Denies LOC or headstrike during fall. 
Denies
any other symptoms or complaints, has been in his usual state of
health prior to fall. 

 
Past Medical History:
CAD, MI, glaucoma, HLD
 
Social History:
___
Family History:
NC
 
Physical Exam:
Vitals: 98.3 89 ___ 96% RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: No respiratory distress, mild TTP R sided ribs, no chest
wall deformity or bruising
ABD: Soft, nondistended, nontender, no rebound or guarding, no
palpable masses
Ext: No ___ edema, ___ warm and well perfused
 
Brief Hospital Course:
Patient was admitted to trauma for pain control ___ multiple rib 
fractures. His pain was well controlled with tramadol. ___ 
evaluated the patient and cleared him for discharge home. 
Patient was discharged with plan to follow up in acute care 
surgery service in 2 weeks. 
 
Medications on Admission:
Active Medication list as of ___:
 
Medications - Prescription
ATORVASTATIN - atorvastatin 40 mg tablet. 1 tablet(s) by mouth 
at
bedtime -  (Prescribed by Other Provider)
CARVEDILOL - carvedilol 3.125 mg tablet. 1 tablet(s) by mouth
twice a day -  (Prescribed by Other Provider)
DUTASTERIDE - dutasteride 0.5 mg capsule. 1 capsule(s) by mouth
once a day -  (Prescribed by Other Provider)
LATANOPROST - Dosage uncertain -  (Prescribed by Other Provider)
LISINOPRIL - lisinopril 2.5 mg tablet. 1 tablet(s) by mouth once
a day -  (Prescribed by Other Provider)
TIMOLOL - Dosage uncertain -  (Prescribed by Other Provider)
 
Medications - OTC
ASPIRIN - aspirin 81 mg tablet,delayed release. 1 tablet(s) by
mouth once a day -  (Prescribed by Other Provider)
MULTIVITAMIN - multivitamin tablet. 1 tablet(s) by mouth once a
day -  (Prescribed by Other Provider)
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  TraMADol 50 mg PO Q4H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth Q6H PRN Disp #*40 Tablet 
Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 40 mg PO QPM  
5.  Carvedilol 3.125 mg PO BID  
6.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
7.  Lisinopril 2.5 mg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  Tamsulosin 0.4 mg PO QHS  
10.  Timolol Maleate 0.5% 1 DROP BOTH EYES BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
rib fractures 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
* Your injury caused rib fractures which can cause severe pain 
and subsequently cause you to take shallow breaths because of 
the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___